US07737177B2
Preparation of Amorphous Mupirocin Calcium
Pseudomonic acid (220 g) was dissolved in methanol (210 ml) kept at 25-27° C. Separately, potassium hydroxide (27.9 g) was dissolved in methanol (154 ml). Also separately, calcium chloride (24.39 g) was dissolved in methanol (133 ml). The potassium hydroxide solution was added to the pseudomonic acid solution until obtaining a pH=9.4-9.5 (147 ml of potassium hydroxide solution was added.). The calcium chloride solution was then added to the mupirocin potassium solution until reaching a pH=7.6-7.7 (128 ml of calcium chloride solution was added.). The solution was stirred at 24-25° C. for an hour. Potassium chloride was filtered, and the solution was labeled Solution B. Solution B (25 ml) was added to diisopropyl-ether (250 ml) at (−7)° C. while stirring. Solid amorphous mupirocin calcium precipitated from the solution, and was stirred at −7° C. for 3 h. The solid product was filtered and washed with cold diisoprpyl-ether (10 ml). The product was dried in a fluidized bed dryer for 6 hours at 35° C., and then in a vacuum oven for 12 h at 35° C.

reactant | Pseudomonic acid | 220 g | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | potassium hydroxide | 27.9 g | [OH-].[K+]
reactant | calcium chloride | 24.39 g | [Cl-].[Ca+2].[Cl-]
reactant | potassium hydroxide | 147 ml | [OH-].[K+]
reactant | mupirocin potassium | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O.[K]
reactant | calcium chloride | 128 ml | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 210 ml | CO | CH4O
solvent | methanol | 154 ml | CO | CH4O
solvent | methanol | 133 ml | CO | CH4O
product | Mupirocin Calcium | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.[Ca+2] | InChI=1S/2C26H44O9.Ca/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);/q;;+2/p-2/b2*16-13+;/t2*17-,18-,19-,20-,21-,24+,25-,26-;/m00./s1
